US08754226B2
3-(2-Fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (0.300 g, 0.812 mmol), 2-chloro-5-ethylpyrimidine (0.116 g, 0.812 mmol) and DIEA (0.210 g, 1.62 mmol) were dissolved in DMF (5 mL) and heated at 100° C. overnight. The reaction was concentrated and purified over silica gel (50-100% EtOAc in hexanes) to provide 1′-(5-ethylpyrimidin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (0.198 g, 0.416 mmol, 51.3% yield) as white solid. Mass spectrum (apci) m/z=476.2 (M+H).

reactant | 3-(2-Fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | 0.812 mmol, 0.300 g | FC1=C(C=CC(=C1)S(=O)(=O)C)NC1C(N(CCC1)C1CCNCC1)=O | C17H24FN3O3S
reactant | 2-chloro-5-ethylpyrimidine | 0.812 mmol, 0.116 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIEA | 1.62 mmol, 0.210 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1′-(5-ethylpyrimidin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | 0.416 mmol, 0.198 g, 51.3% yield | C(C)C=1C=NC(=NC1)N1CCC(CC1)N1C(C(CCC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C23H30FN5O3S
